US04178449
3-Methyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine
A solution of 0.01 mole of 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid in tetrahydrofuran is added dropwise to a chilled (0° C.) solution of 0.02 mole of diborane in tetrahydrofuran. After standing overnight the mixture is poured onto ice and the product extracted into dichloromethane. The dichloromethane layer is washed with water, dried (MgSO4) and the solvent removed to give the product of the example.

reactant | 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.01 mole | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)O)(F)F | C14H8F3N3O2
reactant | diborane | 0.02 mole | B#B | B2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Methyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine | CC=1C=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F | C14H10F3N3
